US08835426B2
To a suspension of LiAlH4 (51 mg, 1.36 mmol) in THF (1.5 mL) was added a solution of N-(3-hydroxybutyl)adamantane-1-carboxamide (170 mg, 0.68 mmol) in THF at 0° C. The mixture was stirred and heated under reflux overnight. The reaction was quenched with H2O (2 mL). The mixture was filtered to give 4-(1-adamantylmethylamino)butan-2-ol (50 mg, 31%). 1H NMR (CD3OD, 400 MHZ): δ=1.12 (d, 3H), 1.58˜1.88 (m, 17H) 2.28 (t, 2H), 2.65 (m, 2H), 3.79 (m, 1H).

reactant | LiAlH4 | 1.36 mmol, 51 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-(3-hydroxybutyl)adamantane-1-carboxamide | 0.68 mmol, 170 mg | OC(CCNC(=O)C12CC3CC(CC(C1)C3)C2)C | C15H25NO2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-(1-adamantylmethylamino)butan-2-ol | 50 mg, 31% | C12(CC3CC(CC(C1)C3)C2)CNCCC(C)O | C15H27NO
